US08633322B2
2-(5-(3-Bromophenyl)pent-4-ynyl)isoindoline-1,3-dione (0.31 g, 0.84 mmol), phenyl boronic acid (206 mg, 1.68 mmol), and Pd (PPh3)4 (0.23, 0.2 mmol) were taken into DME (5 mL) and stirred at 80° C. for two hours. The reaction was then quenched with saturated NaHCO3 and the resulting mixture extracted with EtOAc, washed with brine, then dried over sodium sulfate and the solvent removed in vacuo. The resulting residue was purified on normal phase chromatography (Heptane/EtOAc) to yield 2-(5-(biphenyl-3-yl)pent-4-ynyl)isoindoline-1,3-dione. MH+ 366.3

reactant | 2-(5-(3-Bromophenyl)pent-4-ynyl)isoindoline-1,3-dione | 0.84 mmol, 0.31 g | BrC=1C=C(C=CC1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C19H14BrNO2
reactant | phenyl boronic acid | 1.68 mmol, 206 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Pd (PPh3)4 | 0.2 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 5 mL | COCCOC | C4H10O2
product | 2-(5-(biphenyl-3-yl)pent-4-ynyl)isoindoline-1,3-dione | C1(=CC(=CC=C1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C25H19NO2
